US09062070B2
Step D: methyl 2-amino-6,7-dihydro-5H-cyclopenta[b]pyridine-5-carboxylate
To a solution of methyl 6,7-dihydro-5H-cyclopenta[b]pyridine-5-carboxylate 1-oxide (700 mg, 3.6 mmol) in CF3-toluene (20 mL) and CHCl3 (20 mL) was added tert-butylamine (3.8 mL, 36 mmol). The solution was cooled to 0° C. in an ice bath. To the solution was added p-toluenesulfonic anhydride (3.5 g, 10.9 mmol) in small portions until all SM was consumed according to LC-MS. The volatiles were removed under reduced pressure, and the residue was redissolved in TFA (20 mL). The solution was heated to 70° C. for 2 hours. The reaction was stopped at that point. TFA was removed on a rotavapor, and the residue was taken up in saturated sodium carbonate, and extracted three times with IPA-CHCl3 (1:3, 50 mL each). The extractions were combined, dried over sodium sulfate, adsorbed onto silica gel, and purified by MPLC (DCM:MeOH with 10% aq NH4OH). After removal of solvent the title compound was collected: LC-MS (IE, m/z): 193 [M+1]+.

reactant | methyl 6,7-dihydro-5H-cyclopenta[b]pyridine-5-carboxylate 1-oxide | 3.6 mmol, 700 mg | [N+]1(=C2C(=CC=C1)C(CC2)C(=O)OC)[O-] | C10H11NO3
reactant | tert-butylamine | 36 mmol, 3.8 mL | C(C)(C)(C)N | C4H11N
reactant | p-toluenesulfonic anhydride | 10.9 mmol, 3.5 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-amino-6,7-dihydro-5H-cyclopenta[b]pyridine-5-carboxylate | NC1=CC=C2C(=N1)CCC2C(=O)OC | C10H12N2O2
